US08648068B2
XXII.1 3-Nitro-2-[(R)-(tetrahydro-furan-3-yl)-oxy]-pyridine
Prepared analogously to I.1 from 2-fluor-3-nitropyridine and (R)-tetrahydro-furan-3-ol.

reactant | 2-fluor-3-nitropyridine | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
reactant | (R)-tetrahydro-furan-3-ol | O1C[C@@H](CC1)O | C4H8O2
product | 3-Nitro-2-[(R)-(tetrahydro-furan-3-yl)-oxy]-pyridine | [N+](=O)([O-])C=1C(=NC=CC1)O[C@H]1COCC1 | C9H10N2O4
